US06147098
N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(2-chlorobenzyl)guanidine
By following a procedure analogous to the one described above in Example 1b, N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea (0.300 g, 0.8 mmol) was treated with triethylamine (0.123 ml, 0.88 mmol) and 2-chlorobenzylamine (0.107 ml, 0.88 mmol) to give the title compound as a syrup. Yield 72% (0.234 g).

reactant | N-(3,5-bis(trifluoromethyl)phenyl)-N'-cyano-O-phenylisourea | 0.8 mmol, 0.300 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | triethylamine | 0.88 mmol, 0.123 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzylamine | 0.88 mmol, 0.107 ml | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | N-Cyano-N'-(3,5-bis(trifluoromethyl)phenyl)-N"-(2-chlorobenzyl)guanidine | Yield 72% | C(#N)NC(=NCC1=C(C=CC=C1)Cl)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C17H11ClF6N4
